US05117062
N,N-Diphenylbenzenemethanamine
N-phenylbanzaldimine (1.81 g, 0.010 mol) and benzylphenyl ether (1.84 g, 0.010 mol) were heated at 75° C. in Na/DMF solution (2.0 g; 50 mL) for 30 minutes. The solution was then poured in 200 mL of water, the precipitate was filtered washed with water and dried. Recrystallization from methanol, 70 mL, gave white needles (73% isolated) mp 88°-90° C. (lit mp 86°-7°C8, 88°-9°C9). No depression in melting point occurred when this material was admixed with an authentic sample prepared from diphenylamine and benzyl chloride.

reactant | benzylphenyl ether | 0.010 mol, 1.84 g | C(C1=CC=CC=C1)OC1=CC=CC=C1 | C13H12O
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 200 mL | O | H2O
product | N,N-Diphenylbenzenemethanamine | C1(=CC=CC=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
